US06355799B1
Preparation of 6-chloro-4-fluoro-2-nitro-3(phthalimido)phenol
2-Chloro-4-fluoro-5-(phthalimido)phenol (5.0 g, 17.1 mmol) was slowly added with stirring to con. nitric acid (50 ml) at −10° C. Solution was then warned to ambient temperature. and allowed to stir for 0.5 hr. Addition to ice-water resulted in a light yellow precipitate which was separated by filtration to afford the title compound (5.5 g); 1H NMR (CDCl3+CD3OD, 300 MHz) 4.36 (H, br s), 7.61 (1H, d, J=8.6 Hz), 7.88 (2H, dd, J=3.0, 5.5 Hz), 7.99 (2H, dd, J=3.0, 5.5 Hz) ppm.

reactant | 2-Chloro-4-fluoro-5-(phthalimido)phenol | 17.1 mmol, 5.0 g | ClC1=C(C=C(C(=C1)F)N1C(C=2C(C1=O)=CC=CC2)=O)O | C14H7ClFNO3
reactant | nitric acid | 50 ml | [N+](=O)(O)[O-] | HNO3
product | 6-chloro-4-fluoro-2-nitro-3(phthalimido)phenol | 5.5 g | ClC1=CC(=C(C(=C1O)[N+](=O)[O-])N1C(C=2C(C1=O)=CC=CC2)=O)F | C14H6ClFN2O5
